* C:\users\igorwolfs\My Documents\Personal\Projects\RF_LNA\simulations\BP640_AC_3V.asc
Vcc_ac N001 0 3.3
Q_ac vc_ac N002 N006 0 M_BFP640
R1_ac N001 N002 1000
R2_ac N002 0 454
Re_ac N006 0 66
Rc_ac N001 vc_ac 330
V1 N011 0 0.8
Q3 N010 N011 0 0 M_BFP640
V4 N010 0 2
RL_out vout_ac 0 9999999999999999999999999
Ce_ac N006 0 100nF
Cout_ac vout_ac vc_ac 100nF
Cin_ac N002 vin_ac 100nF
V3 vin_ac 0 SINE(0 1e-5 1e9 0 0 0 1000)
Vcc_ac_50 N007 0 3.3
Q_ac_50 vc_ac_50 N008 N009 0 M_BFP640
R1_ac_50 N007 N008 1000
R2_ac_50 N008 0 454
Re_ac_50 N009 0 66
Rc_ac_50 N007 vc_ac_50 330
RL_out_50 vout_ac_50 0 50
Ce_ac_50 N009 0 100nF
Cout_ac_50 vout_ac_50 vc_ac_50 100nF
Cin_ac_50 N008 vin_ac_50 100nF
v_ac_50 vin_ac_50 0 SINE(0 1e-5 1e9 0 0 0 1000)
Vcc_ef N012 0 3.3
Q_ef vc_ef N013 N015 0 M_BFP640
R1_ef N012 N013 1000
R2_ef N013 0 454
Re_ef N015 0 66
Rc_ef N012 vc_ef 330
RL_ef vout_ef 0 50
Ce_ef N015 0 100nF
Cout_ef vout_ef N014 100nF
Cin_ef N013 vin_ef 100nF
V2 N016 0 SINE(0 1e-6 1e9 0 0 0 1000)
Q1_ef N012 vc_ef N014 0 M_BFP640
Re2_ef N014 0 130
Rs_ef vin_ef N016 50
R1 0 N004 1000
R2 N004 0 454
Re_ac1 N005 0 66
Ce_ac1 N005 0 100nF
Cin_ac1 N004 N003 100nF
V5 N003 0 SINE(0 1e-5 1e9 0 0 0 1000)
I1 0 N005 3.920e-3
re N005 N004 1881
Rc_ac2 0 0 330
R3 0 N018 1000
R4 N018 0 454
Re_ac2 N019 0 66
Ce_ac2 N019 0 100nF
Cin_ac2 N018 N017 100nF
V6 N017 0 SINE(0 1e-5 1e9 0 0 0 1000)
I2 0 N019 3.920e-3
re1 N019 N018 1881
Rc_ac1 0 0 330
R5 N020 N022 1000
R6 N022 0 454
Re_ss1 N021 0 66
Rc_ss N020 0 330
Ce_ss1 N021 0 100nF
Cin_ss1 N022 vin_ss 100nF
Re2 N021 0 130
V7 P001 0 AC 1e-9 0
Cout_ss1 vout_ss N021 100nF
RL_ss1 vout_ss 0 50
Rs_ss1 vin_ss P001 50
V8 N020 0 3.3
rpi1 N021 N022 1887
I3 N020 N021 3.92e-3
rpi2 0 N021 687
I4 N021 N021 9.2e-3
.model NPN NPN
.model PNP PNP
.lib C:\users\igorwolfs\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 1e-6 0 1e-10
* DC-BIAS Circuit, Vcc: 3.3
* DC-analysis
* DC-BIAS Circuit, Vce: 2, Datasheet-check
* DC-analysis
* DC-BIAS Circuit, Vcc: 3.3
* NOTES:\n- 20*log(|GAIN|) = GAIN_db
.meas TRAN vin_ac_50_pp PP V(vin_ac_50)
.meas TRAN vout_ac_50_pp PP V(vout_ac_50)
.meas TRAN vin_ac_pp PP V(vin_ac)
.meas TRAN vout_ac_pp PP V(vout_ac)
.meas TRAN ic_avg_ac_50 AVG Ic(Q_ac_50)
.meas TRAN ib_avg_ac_50 AVG Ib(Q_ac_50)
.meas TRAN ic_avg_ac AVG Ic(Q_ac)
.meas TRAN ib_avg_ac AVG Ib(Q_ac)
.meas TRAN gain_50 PARAM vout_ac_50_pp/vin_ac_50_pp
.meas TRAN Beta_50 PARAM ic_avg_ac_50/ib_avg_ac_50
.meas TRAN gain PARAM vout_ac_pp/vin_ac_pp
.meas TRAN Beta PARAM ic_avg_ac/ib_avg_ac
* DC-BIAS Circuit, Vcc: 3.3
.meas TRAN vin_ef_pp PP V(vin_ef)
.meas TRAN vout_ef_pp PP V(vout_ef)
.meas TRAN ic_avg_ef AVG Ic(Q_ef)
.meas TRAN ib_avg_ef AVG Ib(Q_ef)
.meas TRAN gain_ef PARAM vout_ef_pp/vin_ef_pp
.meas TRAN Beta_ef PARAM ic_avg_ef/ib_avg_ef
.backanno
.end
