* C:\users\iwolfs\Favorites\simulations\BP640_CASCODE.asc
Vcc_ac1 N001 0 3.3
Q_ac1 N004 N005 N006 0 M_BFP640
R1 N001 N003 2.2e3
R3 N005 0 3.4e3
Re_ac1 N006 0 20
Rc_ac1 N001 N002 83.33
Cin_ac1 N005 vin_ac 100nF
R2 N003 N005 3.8e3
Q_ac2 N002 N003 N004 0 M_BFP640
Re_ac2 N002 0 1e10
V1 vin_ac 0 SINE(0 1e-5 1e9) AC 1e-5 Rser=50
C1 N006 0 10e-9
C2 N003 0 100nF
V2 vin_ac 0 AC 1 0 Rser=50
Vcc_ac2 N007 0 5
Q_ac3 N010 N011 N012 0 M_BFP640
R4 N007 N009 2.166e3
R5 N011 0 1e3
Re_ac3 N012 0 50
Rc_ac2 N007 N008 200
Cin_ac2 N011 vin_ac 10nF
R6 N009 N011 1e3
Q_ac4 N008 N009 N010 0 M_BFP640
Re_ac4 N008 0 1e10
Cin_ac3 N009 0 10nF
Cin_ac4 0 N012 100nF
V3 vin_ac 0 SINE(0 1e-2 868e6 0 0 0 1000) AC 1e-2 0 Rser=50
Vcc_ac3 N013 0 5
Q_ac5 N018 N019 N020 0 M_BFP640
R7 N013 N015 2.166e3
R8 N019 0 1e3
Re_ac5 N020 0 50
Rc_ac3 N013 N014 200
Cin_ac5 N019 vin_ac 100nF
R9 N015 N019 1e3
Q_ac6 N014 N015 N018 0 M_BFP640
Cin_ac6 N015 0 100nF
Cin_ac7 0 N020 100nF
Q_ac7 N013 N014 N016 0 M_BFP640
Rc_ac4 N016 0 200
Cin_ac8 N017 N016 100nF
Rc_ac5 N017 0 50
.model NPN NPN
.model PNP PNP
.lib C:\users\iwolfs\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 1e-5 0 1e-11
;tran 0 1e-5 0 1e-10
;tran 0 1e-2 0 1e-10
*
.MODEL          M_BFP640        NPN(
+               TNOM = 25
+               IS              =               1.239E-015
+               BF              =               887.6
+               NF              =               1
+               VAF             =               1000
+               IKF             =               0.1433
+               ISE             =               1E-014
+               NE              =               2
+               BR              =               148.3
+               NR              =               1
+               VAR             =               1.202
+               IKR             =               0.01
+               ISC             =               2.948E-015
+               NC              =               2
+               RB              =               5.016
+               IRB             =               0
+               RBM             =               1.977
+               RE              =               0.3592
+               RC              =               2.953
+               XTB             =               -2.576
+               EG              =               1.09
+               XTI             =               0.15
+               CJE             =               4.58707E-013
+               VJE             =               1.76884
+               MJE             =               0.164326
+               TF              =               2.13534E-012
+               XTF             =               1
+               VTF             =               0.03
+               ITF             =               2
+               PTF             =               0.1
+               CJC             =               6.62237E-014
+               VJC             =               0.936235
+               MJC             =               1.16702
+               XCJC            =               1
+               TR              =               1E-009
+               CJS             =               1.20379E-013
+               MJS             =               0.3
+   VJS =   1
+               FC              =               0.5
+               KF              =               1.981E-012
+               AF              =               1.552)
***************************************************************
*
.ENDS BFP640
.backanno
.end
