* C:\users\igorwolfs\My Documents\Personal\Projects\RF_LNA\simulations\BP640_FREQ_3V.asc
V2 vin_ac 0 AC 1e-7 0
Vcc_ac N001 0 3.3
Q_ac vc_ac N002 N003 0 M_BFP640
R1_ac N001 N002 1000
R2_ac N002 0 454
Re_ac N003 0 66
Rc_ac N001 vc_ac 330
RL_out vout_ac 0 9999999999999999999999999
Ce_ac N003 0 100nF
Cout_ac vout_ac vc_ac 100nF
Cin_ac N002 vin_ac 100nF
Vcc_ac_50 N004 0 3.3
Q_ac_50 vc_ac_50 N005 N006 0 M_BFP640
R1_ac_50 N004 N005 1000
R2_ac_50 N005 0 454
Re_ac_50 N006 0 66
Rc_ac_50 N004 vc_ac_50 330
RL_ac_50 vout_ac_50 0 50
Ce_ac_50 N006 0 100nF
Cout_ac_50 vout_ac_50 vc_ac_50 100nF
Cin_ac_50 N005 vin_ac_50 100nF
V5 vin_ac_50 0 AC 0.00001 0
Vcc_ef N007 0 3.3
Q_ef vc_ef N009 N010 0 M_BFP640
R1_ef N007 N009 1000
R2_ef N009 0 454
Re_ef N010 0 66
Rc_ef N007 vc_ef 330
Ce_ef N010 0 100nF
Cin_ef N009 vin_ef 100nF
Q1_ef N007 vc_ef N008 0 M_BFP640
Re1_ef N008 0 130
V3 P001 0 AC 1e-9 0
Cout_ef vout_ef N008 100nF
RL_ef vout_ef 0 50
Rs_ef vin_ef P001 50
R1_ss N011 N012 1000
R2_ss N012 0 454
Re_ss N013 0 66
Rc_ss N011 N013 330
Ce_ss N013 0 100nF
Cin_ss N012 vin_ss 100nF
Re2_ss N014 0 130
V6 P002 0 AC 1e-9 0
Cout_ss vout_ss N014 100nF
RL_ss vout_ss 0 50
Rs_ss vin_ss P002 50
V7 N011 0 3.3
rpi N013 N012 1887
I1 N011 N013 3.92e-3
rpi2 N014 N013 687
I2 N011 N014 9.2e-3
.model NPN NPN
.model PNP PNP
.lib C:\users\igorwolfs\My Documents\LTspiceXVII\lib\cmp\standard.bjt
* DC-analysis
* DC-BIAS Circuit, Vcc: 3.3
* DC-analysis
* DC-BIAS Circuit, Vcc: 3.3
.ac oct 20 10 100000000k
* DC-BIAS Circuit, Vcc: 3.3
* beta1=295 \nic1=3.92120e-3 \nr_e=((25e-3/ic1)*(beta1+1))=1887\nbeta2 = 252\nic2 = 9.2e-3\nr_e2=((25e-3/ic2)*(beta2+1))=687
.backanno
.end
