* C:\users\iwolfs\Favorites\simulations\LNA_IMPEDANCE_CALC.asc
Vcc_ac2 N001 0 5
q_ce N010 N013 N016 0 M_BFP640
R1 N004 N006 2.2e3
R3 N017 0 1e3
Re N016 N018 50
Rc N003 N005 200
R2 N007 N013 1e3
Q_cb N005 N006 N010 0 M_BFP640
Cin_base N006 0 100pF
Ce 0 N016 2nF
Q_ef N002 N005 N008 0 M_BFP640
Re_ef N015 0 200
Rout N009 0 50
V1 N011 0 SINE(0 1e-3 868e6 0 0 0 10000) AC 1 0 Rser=50
C1 N012 N011 1.2pF
L1 N012 0 18n
C3 N013 N012 3.6pF
L3 N002 N001 0
L4 N002 N003 92nH
L7 N006 N007 0nH
L8 N013 N017 91nH
L9 N018 0 0nH
L5 N002 N004 92nH
C5 0 N002 100pF
L2 N008 N015 92nH
C2 N009 N008 4pF
L6 N009 0 20nH
.model NPN NPN
.model PNP PNP
.lib C:\users\iwolfs\AppData\Local\LTspice\lib\cmp\standard.bjt
.ac lin 1e5 0.6e9 1e9
.net I(Rout) V1  ; Rin & Rout determined from V4 and Rout
* S-PARAMETERS
.meas AC S11_12e9 FIND S11(V1) AT 1.22e9
.opt meascplxfmt=bode
.meas AC S12_12e9 FIND S12(V1) AT 1.22e9
.meas AC S21_12e9 FIND S21(V1) AT 1.22e9
.meas AC S22_12e9 FIND S22(V1) AT 1.22e9
.meas AC S11_15e9 FIND S11(V1) AT 1.5e9
.meas AC S12_15e9 FIND S12(V1) AT 1.5e9
.meas AC S21_15e9 FIND S21(V1) AT 1.5e9
.meas AC S22_15e9 FIND S22(V1) AT 1.5e9
.lib Infineon_RFTransistor.lib
*
.MODEL          M_BFP640        NPN(
+               TNOM = 25
+               IS              =               1.239E-015
+               BF              =               887.6
+               NF              =               1
+               VAF             =               1000
+               IKF             =               0.1433
+               ISE             =               1E-014
+               NE              =               2
+               BR              =               148.3
+               NR              =               1
+               VAR             =               1.202
+               IKR             =               0.01
+               ISC             =               2.948E-015
+               NC              =               2
+               RB              =               5.016
+               IRB             =               0
+               RBM             =               1.977
+               RE              =               0.3592
+               RC              =               2.953
+               XTB             =               -2.576
+               EG              =               1.09
+               XTI             =               0.15
+               CJE             =               4.58707E-013
+               VJE             =               1.76884
+               MJE             =               0.164326
+               TF              =               2.13534E-012
+               XTF             =               1
+               VTF             =               0.03
+               ITF             =               2
+               PTF             =               0.1
+               CJC             =               6.62237E-014
+               VJC             =               0.936235
+               MJC             =               1.16702
+               XCJC            =               1
+               TR              =               1E-009
+               CJS             =               1.20379E-013
+               MJS             =               0.3
+   VJS =   1
+               FC              =               0.5
+               KF              =               1.981E-012
+               AF              =               1.552)
***************************************************************
*
.ENDS BFP640
* BEFORE IMPEDANCE MATCH: 868 MHz: Z11: 183-193j, Z22: 7 + 0.535\nIMPEDANCE MATCHED 1: 1.4pF, 19.3nH\nAFTER IMPEDANCE MATCH1: \n868 MHz: Z11: about 50 ohms, Z22: 7.0  +0.532j\nIMPEDANCE MATCHED2: 10.2pF, 3.715 nH\n868 MHz: Z22: about 50 ohms, Z22: 50ohm
* .tran 0 1e-5 0 1e-11
.backanno
.end
