* C:\users\igorwolfs\My Documents\Personal\Projects\RF_LNA\simulations\LNA_NOISE.asc
Vcc_ac3 N001 0 5
Q_ac7 N005 N006 N009 0 M_BFP640
R9 N001 N003 2.2e3
R10 N006 0 1e3
Re_ac3 N009 0 50
Rc_ac6 N001 N002 200
Cin_ac9 N006 N008 100nF
R11 N003 N006 1e3
Q_ac8 N002 N003 N005 0 M_BFP640
Cin_ac10 N003 0 100nF
Cin_ac11 0 N009 100nF
Q_ac9 N001 N002 N004 0 M_BFP640
Rc_ac7 N004 0 200
Cin_ac12 out N004 100nF
Rout1 out 0 50
V2 N010 0 AC 1 0 Rser=0
Q_ac1 N012 N011 0 0 M_BFP640
c_bias_base N011 N014 100nF
Vin_test N014 0 AC 1 0 Rser=50
c_bias_collector N013 N012 100nF
RL N013 0 50
V3 N011 0 0.7
V4 N012 0 3
Q_ac2 N017 N019 0 0 M_BFP640
c_bias_base1 N019 N018 100nF
vin_SNR_test N020 0 SINE(0 1e-4 450e6) AC 1e-4 0 Rser=0
c_bias_collector1 out_SNR_test N017 100nF
RL1 out_SNR_test 0 50
V5 N016 0 3
I1 0 N015 0.0216e-3
L1 N016 N017 20nH
L2 N015 N019 10nH
R1 N008 N010 50
Rs N018 N020 50
.model NPN NPN
.model PNP PNP
.lib C:\users\igorwolfs\My Documents\LTspiceXVII\lib\cmp\standard.bjt
;ac lin 1e10 1e8 2e9
;.net I(Rout) V1  ; Rin & Rout determined from V4 and Rout
* NOISE
.noise V(out) V2 oct 1e4 1e7 2e9
;tran 0 1e-5 0 1e-10
.backanno
.end
